2114-12-20 10:06:00 Physician Attending Progress Note
Chief Complaint: Hypotension, respiratory distress, anemia, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient weaned off of vasopressors, given fluiids.
   Oxygen requirements decreased.
   No SOB at rest.
   Minimal abdominal discomfort.
   24 Hour Events:
 MULTI LUMEN - START [**2114-12-20**] 01:42 AM
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2114-12-20**] 04:00 AM
   Doxycycline - [**2114-12-20**] 08:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-20**] 03:00 AM
   Other medications:
   Cefipime
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-20**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.6
   HR: 70 (60 - 85) bpm
   BP: 96/55(66) {83/48(59) - 104/62(72)} mmHg
   RR: 12 (8 - 19) insp/min
   SpO2: 94%
   Wgt (current): 62.4 kg (admission): 62.4 kg
             Total In:
             1,188 mL
   PO:
             TF:
   IVF:
   1,188 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    550 mL
   Urine:
   550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    638 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Few scattered rales, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: LLQ; no
   guarding, mild rebound, No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   123 K/uL
   224 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.4 mEq/L
   18 mg/dL
   102 mEq/L
   138 mEq/L
   29.1 %
   4.3 K/uL
        [image002.jpg]
                            [**2114-12-19**]  11:33 PM
                            [**2114-12-20**]  03:27 AM
   WBC
   4.3
   Hct
   33
   29.1
   Plt
   123
   Cr
   0.5
   TropT
   <0.01
   Glucose
   173
   224
   Other labs: PT / PTT / INR:14.7/30.3/1.3, CK / CKMB /
   Troponin-T:49/3/<0.01, ALT / AST:[**1-16**], Alk Phos / T Bili:99/0.4,
   Lactic Acid:1.4 mmol/L, LDH:306 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.8 mg/dL
   Imaging: Chest CT- bilateral diffuse ground glass opacities.
   ECG: ECG: T wave inversions V2-V3 with biphasic T-waves in III, avF -
   new.
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CORONARY ARTERY BYPASS GRAFT (CABG)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERGLYCEMIA
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   PNEUMONIA
   BP responded to fluids. CVP now is still 6. Patient remains volume
   depeleted; would give additional fluid now to get CVP to [**9-16**] given
   that he is due for ERCP and sedation. I think the CT scan represents
   pneumonia, not CHF, given the low CVP and the anterior, upper lobe,
   non-dependent distribution to his infiltrates. Do not think this is a
   bacterial pneumonia. PCP is another consideration; would do a sputum
   induction. If cultures negative at 48 hours, would stop vanco.
   Doubt patient is septic. Initial hypotension probably related to volume
   depletion, perhaps complicated by some GI bleeding. Hct is 29; not at
   threshold for transfusion.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-12-20**] 01:29 AM
   20 Gauge - [**2114-12-20**] 01:30 AM
   Multi Lumen - [**2114-12-20**] 01:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2114-12-21 07:36:00 Physician Resident Progress Note
Chief Complaint: Fatigue
   24 Hour Events:
   -ERCP did not show obstruction. No stent was placed. There was a small
   GI bleed but no source could be identified
   -Called RadOnc. Pt's mapping was apparently lost and earliest he could
   get cyberknife tx would be Mon. They will come by and talk to the pt
   and family tomorrow
   -Monitored CVP closely and bolused with NS several times
   -Advanced diet to regular which pt tolerated well
   -Started vicodin for pain control (pt takes at home)
   -d/c'd foley
   -B12 and folate nl
   -Confirmed with wife- Pt took [**Name (NI) 2636**] as only chemo which can rarely
   cause pulmonary fibrosis.
   -Blood cx [**12-19**]- 1/4 bottles with GPC. Pt on cefepime, doxy, vanco for
   now.
   -Overnight, pulled central line
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash; ?erythromycin allergy- unclear per pt
   [**Name (NI) 322**] dose of Antibiotics:
   Doxycycline - [**2114-12-20**] 08:00 PM
   Vancomycin - [**2114-12-20**] 10:00 PM
   Cefipime - [**2114-12-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-12-20**] 02:30 PM
   Pantoprazole (Protonix) - [**2114-12-21**] 02:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2114-12-21**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 71 (62 - 85) bpm
   BP: 98/54(64) {84/41(53) - 135/64(81)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 86%
   Wgt (current): 62.4 kg (admission): 62.4 kg
    CVP: 9 (6 - 12)mmHg
   Total In:
                                                                  3,676 mL
                                                                    305 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,236 mL
                                                                    185 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,195 mL
                                                                      0 mL
   Urine:
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,481 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   occassional crackles throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   127 K/uL
   9.3 g/dL
   209 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   105 mEq/L
   138 mEq/L
   27.4 %
   8.5 K/uL
        [image002.jpg]
                            [**2114-12-19**]  11:33 PM
                            [**2114-12-20**]  03:27 AM
                            [**2114-12-21**]  03:42 AM
   WBC
   4.3
   8.5
   Hct
   33
   29.1
   27.4
   Plt
   123
   127
   Cr
   0.5
   0.5
   TropT
   <0.01
   Glucose
   173
   224
   209
   Other labs: PT / PTT / INR:14.1/30.7/1.2, CK / CKMB /
   Troponin-T:49/3/<0.01, ALT / AST:[**1-16**], Alk Phos / T Bili:99/0.4,
   Lactic Acid:1.4 mmol/L, LDH:306 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CORONARY ARTERY BYPASS GRAFT (CABG)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERGLYCEMIA
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   Assessment: 62yo M h/o chronic gastric outlet obstruction [**3-10**]
   pancreatic CA now presenting with incr O2 requirement and hypotension.
   .
   # Acute Respiratory Distress: The pt now on 5L NC from a baseline of no
   O2 in the setting of new ground glass opacities. DDx: includes
   infection ( Atypical PNA), inflamatory rxn (potentially secondary to
   chemotherapy), edema. Worstened CXR this am points to pulmonary edema.
   Pt now with clearer lungs on exam and better O2 sat after 20IV Lasix
   given resulting in 2L diuresis.
   - Titrate NC PRN
   -Hold on further diuresis for now as BP coming down to 80
s/40s
   - Abx to cover atypicals. Less likely PCP. [**Name10 (NameIs) **] Doxycycline (given
   Cipro and Macrolide allergies)
   - Nebs PRN
   .
   # Hypotension:  Off pressors since transfer to the floor. Pt
   comfortable with SBP into 80
s overnight while sleeping. Now, after
   diuresis, SBP back down to 80
s again.
   - Hold on IVF and diuretics for now. Will continue to monitor closely
   .
   # Gastric Outlet Obstruction: ERCP showed no gastric outlet
   obstruction.  Pt now tolerating small amts of regular diet without
   nausea
   - Cyberknife treatment possibly on Mon. Team will come by today.
   .
   # CAD: Pt presented with EKG changes in the setting of a hx of CAD and
   Hct < 30. CEs Negative x2.
   - Will continue to monitor and consider rpt EKG with CE if becomes
   symptomatic or hemodynamically unstable.
   .
   #DM-On metformin at home.
   - FS qid
   - HISS
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-12-20**] 01:29 AM
   20 Gauge - [**2114-12-20**] 01:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Son [**Name (NI) 92**] [**Name (NI) 2602**] JR ([**Telephone/Fax (1) 2603**]
   Wife 1-([**Telephone/Fax (1) 2604**]
   Code status: Full code- will need to discuss this with the family today
   Disposition:ICU for now. Will consider possible PM call out if BP and
   O2 sat stable.

2114-12-21 10:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   EGD without evidence of gastric outlet obstruction. Feedings started.
   Afebrile.
   Hemodynamically stable except for transient drops in BP during sleep.
   O2 saturation dropping intermittently.CXR shows increased interstitial
   markings; patient given lasix. Has put out 2L of urine since then.
   24 Hour Events:
                                                History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2114-12-21**] 06:00 AM
   Vancomycin - [**2114-12-21**] 08:04 AM
   Doxycycline - [**2114-12-21**] 09:47 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-21**] 02:00 AM
   Ranitidine (Prophylaxis) - [**2114-12-21**] 08:04 AM
   Furosemide (Lasix) - [**2114-12-21**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-21**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.6
C (96.1
   HR: 97 (62 - 97) bpm
   BP: 123/64(87) {84/37(47) - 135/66(87)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 86%
   Wgt (current): 62.4 kg (admission): 62.4 kg
   CVP: 9 (6 - 12)mmHg
   Total In:
                                                                  3,676 mL
                                                                  1,020 mL
   PO:
                                                                    240 mL
                                                                    510 mL
   TF:
   IVF:
                                                                  3,236 mL
                                                                    510 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,195 mL
                                                                  3,975 mL
   Urine:
                                                                  1,195 mL
                                                                  3,975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,481 mL
                                                                 -2,955 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), JVP not elevated.
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Rales scattered bilaterally,
   most at the bases., No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   127 K/uL
   209 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   105 mEq/L
   138 mEq/L
   27.4 %
   8.5 K/uL
        [image002.jpg]
                            [**2114-12-19**]  11:33 PM
                            [**2114-12-20**]  03:27 AM
                            [**2114-12-21**]  03:42 AM
   WBC
   4.3
   8.5
   Hct
   33
   29.1
   27.4
   Plt
   123
   127
   Cr
   0.5
   0.5
   TropT
   <0.01
   Glucose
   173
   224
   209
   Other labs: PT / PTT / INR:14.1/30.7/1.2, CK / CKMB /
   Troponin-T:49/3/<0.01, ALT / AST:[**1-16**], Alk Phos / T Bili:99/0.4,
   Lactic Acid:1.4 mmol/L, LDH:306 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.8 mg/dL
   Imaging: CXR: diffuse increase in interstitial markings.
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CORONARY ARTERY BYPASS GRAFT (CABG)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERGLYCEMIA
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   Patient with hypoxemia. CXR today suggests CHF and patient may be
   slightly better with diuresis, but does not appear volume overloaded by
   exam; BNP two days ago was 6000. Would keep fluids slightly negative
   today. Repeat CXR in AM tomorrow. No cough; breathing slightly worse in
   the supine position. Patient to have an induced sputum for PCP
   BP occasionally drifts down, but patient asymptomatic. Continue to
   monitor.
   ICU Care
   Nutrition: Oral feeding
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-12-20**] 01:29 AM
   20 Gauge - [**2114-12-20**] 01:30 AM
   Multi Lumen - [**2114-12-20**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2114-12-22 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ABG with hypoxemia and hypercapnea, A-a gradient calculated >170, but
   patient ambulated well with PT and maintained sats >88 on 5L
   - Due to hypoxia and A-a gradient, patient was started on emperic PCP
   treatment with Bactrim and prednisone.
   - Heme/Onc consulted and indicated this may all be due to Gemzar
   toxicity, but this is a diagnosis of exclusion and we need to treat CHF
   and infectious causes first.  Perhaps steriods in [**2-7**] weeks (although
   he's already getting this for PCP [**Name Initial (PRE) 2665**])
   - Diuresed very well with 1 dose of lasix
   - BNP down to 3288 from 6151 on presentation
   - In PM patient had acute onset of abdominal pain radiating to back and
   L shoulder, sharp and colicky, no ECG changes.  Given 2 mg morphine x
   3, ativan 1 mg with minimal relief.
   - Patient became more delerious throughout the night, getting up
   repeatedly and wanting to leave.
   Allergies:
   Penicillins
   Unknown;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2114-12-21**] 06:00 AM
   Vancomycin - [**2114-12-21**] 08:30 PM
   Doxycycline - [**2114-12-21**] 10:15 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-12-21**] 08:04 AM
   Furosemide (Lasix) - [**2114-12-21**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2114-12-21**] 04:22 PM
   Haloperidol (Haldol) - [**2114-12-22**] 12:10 AM
   Morphine Sulfate - [**2114-12-22**] 05:30 AM
   Lorazepam (Ativan) - [**2114-12-22**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-22**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 113 (68 - 133) bpm
   BP: 96/60(69) {85/37(47) - 124/75(101)} mmHg
   RR: 25 (6 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.4 kg (admission): 62.4 kg
             Total In:
                                                                  2,100 mL
                                                                    592 mL
   PO:
                                                                  1,150 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    950 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                  5,675 mL
                                                                    250 mL
   Urine:
                                                                  5,375 mL
                                                                    250 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,575 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.45/46/57/29/6
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   occassional crackles throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   115 K/uL
   10.5 g/dL
   146 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   8 mg/dL
   106 mEq/L
   141 mEq/L
   31.2 %
   8.1 K/uL
        [image002.jpg]
                            [**2114-12-19**]  11:33 PM
                            [**2114-12-20**]  03:27 AM
                            [**2114-12-21**]  03:42 AM
                            [**2114-12-21**]  01:02 PM
                            [**2114-12-21**]  01:46 PM
                            [**2114-12-21**]  03:15 PM
                            [**2114-12-21**]  10:08 PM
                            [**2114-12-22**]  04:54 AM
   WBC
   4.3
   8.5
   6.6
   8.1
   Hct
   33
   29.1
   27.4
   36.8
   31.2
   Plt
   123
   127
   162
   115
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   32
   33
   Glucose
   173
   224
   209
   132
   322
   146
   Other labs: PT / PTT / INR:14.1/30.7/1.2, CK / CKMB /
   Troponin-T:50/2/<0.01, ALT / AST:[**12-18**], Alk Phos / T Bili:82/0.4,
   Amylase / Lipase:19/34, Lactic Acid:2.2 mmol/L, LDH:273 IU/L, Ca++:7.6
   mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   62yo M h/o chronic gastric outlet obstruction [**3-10**] pancreatic CA now
   presenting with incr O2 requirement and hypotension.
   .
   # Acute Respiratory Distress: The pt now on 5L NC from a baseline of no
   O2 in the setting of new ground glass opacities. DDx: includes
   infection ( Atypical PNA), inflamatory rxn (potentially secondary to
   chemotherapy), edema. Worstened CXR this am points to pulmonary edema.
   Pt now with clearer lungs on exam and better O2 sat after 20IV Lasix
   given resulting in 2L diuresis.
   - Titrate NC PRN
   -Hold on further diuresis for now as BP coming down to 80
s/40s
   - Abx to cover atypicals. Less likely PCP. [**Name10 (NameIs) **] Doxycycline (given
   Cipro and Macrolide allergies)
   - Nebs PRN
   .
   # Hypotension:  Off pressors since transfer to the floor. Pt
   comfortable with SBP into 80
s overnight while sleeping. Now, after
   diuresis, SBP back down to 80
s again.
   - Hold on IVF and diuretics for now. Will continue to monitor closely
   .
   # Gastric Outlet Obstruction: ERCP showed no gastric outlet
   obstruction.  Pt now tolerating small amts of regular diet without
   nausea
   - Cyberknife treatment possibly on Mon. Team will come by today.
   .
   # CAD: Pt presented with EKG changes in the setting of a hx of CAD and
   Hct < 30. CEs Negative x2.
   - Will continue to monitor and consider rpt EKG with CE if becomes
   symptomatic or hemodynamically unstable.
   .
   #DM-On metformin at home.
   - FS qid
   - HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-12-21**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Son [**Name (NI) 92**] [**Name (NI) 2602**] JR ([**Telephone/Fax (1) 2603**]
   Wife 1-([**Telephone/Fax (1) 2604**]
   Code status: Full code- will need to discuss this with the family today
   Disposition:ICU

2114-12-22 11:07:00 Physician Attending Progress Note
Chief Complaint: 62 yr old male widely metastatic pancreatic ca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   history reviewed. Hx of CABG, DM, COPD, panc ca. Had ERCP, coffee
   ground emesis, esophagitis seen but no biliary or other obstruction
   seen.
   24 Hour Events:
   Overnight remained hypoxic, on [**3-14**] liters. Diuresed well yesterday with
   some improvement but BP dropped so given back IVF. Pt c/o abdominal
   pain. Started on reglan. Poor PO intake due to pain and nausea with
   eating.
   I/o reviewed - negative 3.5 L,
   ROS - c/o left flank pain
   Allergies:
   Penicillins
   Unknown;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2114-12-21**] 06:00 AM
   Doxycycline - [**2114-12-21**] 10:15 PM
   Vancomycin - [**2114-12-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-12-21**] 04:22 PM
   Haloperidol (Haldol) - [**2114-12-22**] 12:10 AM
   Lorazepam (Ativan) - [**2114-12-22**] 05:50 AM
   Morphine Sulfate - [**2114-12-22**] 09:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-22**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.5
C (97.7
   HR: 108 (68 - 133) bpm
   BP: 112/65(77) {91/44(54) - 124/75(101)} mmHg
   RR: 22 (6 - 36) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.4 kg (admission): 62.4 kg
             Total In:
                                                                  2,100 mL
                                                                    884 mL
   PO:
                                                                  1,150 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    950 mL
                                                                    854 mL
   Blood products:
   Total out:
                                                                  5,675 mL
                                                                    250 mL
   Urine:
                                                                  5,375 mL
                                                                    250 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,575 mL
                                                                    634 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: 7.45/46/57/29/6
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : rare, Diminished: left
   lung zone)
   Abdominal: Soft, Distended, Tender: LLQ +/- LUQ on palpation, BS
   decreased
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self and date, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   115 K/uL
   146 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   8 mg/dL
   106 mEq/L
   141 mEq/L
   31.2 %
   8.1 K/uL
        [image002.jpg]
                            [**2114-12-19**]  11:33 PM
                            [**2114-12-20**]  03:27 AM
                            [**2114-12-21**]  03:42 AM
                            [**2114-12-21**]  01:02 PM
                            [**2114-12-21**]  01:46 PM
                            [**2114-12-21**]  03:15 PM
                            [**2114-12-21**]  10:08 PM
                            [**2114-12-22**]  04:54 AM
   WBC
   4.3
   8.5
   6.6
   8.1
   Hct
   33
   29.1
   27.4
   36.8
   31.2
   Plt
   123
   127
   162
   115
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   32
   33
   Glucose
   173
   224
   209
   132
   322
   146
   Other labs: PT / PTT / INR:14.1/30.7/1.2, CK / CKMB /
   Troponin-T:50/2/<0.01, ALT / AST:[**12-18**], Alk Phos / T Bili:82/0.4,
   Amylase / Lipase:19/34, Lactic Acid:2.2 mmol/L, LDH:273 IU/L, Ca++:7.6
   mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Imaging: CT chest reviewed
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 H/O CORONARY ARTERY BYPASS GRAFT (CABG)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERGLYCEMIA
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   Acute respiratory failure
 CT chest reveals diffuse GG opacities, with
   hypoxemic, not appearing septic. Would agree with treating as pneumonia
   with broad spectrum Abx. PCP less likely but reasonable to treat
   empirically given the CT findings. Induced PCP [**Name Initial (PRE) **].
   Acute/Chronic abdominal pain
 will check KUB +/- CT today to reassess
   for new process. Most likely pain is related to his malignancy, either
   nerve involvement, gastric dilation (may need NG again). Pain control
   with fentanyl patch + dilaudid.
   Pancreatic ca
 will touch base with oncology who
s plan is to discuss
   in multidisciplinary rounds next week. Transferred for second opinion
   and possible cyberknife.
   FEN
 would keep even to
 500 cc if possible.
   Social
 I updated wife and son personally.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-12-21**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 42 minutes
   Patient is critically ill

2114-12-23 07:45:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, h/o pancreatic ca
   [**30**] Hour Events:
   Overnight, pt with increasing pain on dilaudid. Increasing doses to 8mg
   Q 1hr
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-12-22**] 08:00 PM
   Doxycycline - [**2114-12-22**] 10:00 PM
   Metronidazole - [**2114-12-23**] 12:00 AM
   Bactrim (SMX/TMP) - [**2114-12-23**] 03:50 AM
   Cefipime - [**2114-12-23**] 06:12 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2114-12-22**] 09:17 AM
   Furosemide (Lasix) - [**2114-12-22**] 02:00 PM
   Pantoprazole (Protonix) - [**2114-12-23**] 02:00 AM
   Lorazepam (Ativan) - [**2114-12-23**] 02:00 AM
   Hydromorphone (Dilaudid) - [**2114-12-23**] 07:32 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**3-10**] pt distress over incr pain
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2114-12-23**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 147 (97 - 155) bpm
   BP: 122/85(94) {96/62(70) - 138/98(209)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 81%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.4 kg (admission): 62.4 kg
             Total In:
                                                                  4,270 mL
                                                                    736 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  4,240 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    510 mL
   Urine:
                                                                    650 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,620 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 81%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Anxious,
   Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases L>R)
   Abdominal: Soft, Tender: diffusely to light touch
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   195 K/uL
   14.1 g/dL
   148 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   10 mg/dL
   105 mEq/L
   141 mEq/L
   41.6 %
   12.8 K/uL
        [image002.jpg]
                            [**2114-12-19**]  11:33 PM
                            [**2114-12-20**]  03:27 AM
                            [**2114-12-21**]  03:42 AM
                            [**2114-12-21**]  01:02 PM
                            [**2114-12-21**]  01:46 PM
                            [**2114-12-21**]  03:15 PM
                            [**2114-12-21**]  10:08 PM
                            [**2114-12-22**]  04:54 AM
                            [**2114-12-22**]  04:33 PM
   WBC
   4.3
   8.5
   6.6
   8.1
   12.8
   Hct
   33
   29.1
   27.4
   36.8
   31.2
   41.6
   Plt
   123
   127
   162
   115
   195
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   32
   33
   Glucose
   173
   224
   209
   132
   322
   146
   148
   Other labs: PT / PTT / INR:14.1/30.7/1.2, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:[**12-18**], Alk Phos / T Bili:82/0.4,
   Amylase / Lipase:19/34, Differential-Neuts:70.0 %, Band:26.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, LDH:273
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CORONARY ARTERY BYPASS GRAFT (CABG)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERGLYCEMIA
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   62yo M h/o chronic gastric outlet obstruction [**3-10**] pancreatic CA now
   presenting with increasing O2 requirement and hypotension.
   .
   # Acute Respiratory Distress: The pt now on 4L NC from a baseline of no
   O2 in the setting of new ground glass opacities. DDx: remains infection
   ( Atypical PNA, PCP, [**Name Initial (NameIs) **]), inflamatory rxn (potentially secondary
   to chemotherapy), edema. Pt diuresed yesterday, but dropped BP
   overnight so re-bolused.
   - Titrate NC PRN
   - Holding on further diuresis for now as BP coming down to 80
s/40s
   - PCP coverage with Bactrim
   - Low threshold to expand coverage given limited reserved
   -. Cont Doxycycline (given Cipro and Macrolide allergies) for atypicals
   - Nebs PRN
   .
   # Hypotension: Remains off pressors since transfer to the floor.
   - IVF Bolus PRN
   .
   # Gastric Outlet Obstruction?: ERCP without physical obstruction. Pt
   not tolerating PO
   - Morphine PRN with low threshold to increase to dilaudid IV
   - Keep pt NPO for now
   - Repeat KUB, and consider CT abd for further work-up of abdominal pain
   - Potential Cyberknife treatment possibly on Mon. Will touch base with
   team
   .
   # CAD: Pt presented with EKG changes in the setting of a hx of CAD and
   Hct < 30. CEs Negative x2.
   - Will continue to monitor and consider rpt EKG with CE if becomes
   symptomatic or hemodynamically unstable.
   .
   #DM - On Metformin at home.
   - FS qid
   - HISS
   ICU Care
   Nutrition: Regular diet- pt not currently taking po [**3-10**] pain
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-12-22**] 09:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU